### PR TITLE
complete the theory of big-Omega/Theta

### PR DESCRIPTION
**Pull request by affeldt-aist**
clean the formalization (uniform naming,
all formats now in Reserved Notations first,
complete the documentation).

### CODE REVIEW

File: landau.v [hunk 1]
```diff
@@ -1185,78 +1182,86 @@ Qed.
...
+Reserved Notation "[bigOmega 'of' f 'for' fT ]" (at level 0, f at level 0,
+  format "[bigOmega  'of'  f  'for'  fT ]").
+Reserved Notation "[bigOmega 'of' f ]" (at level 0, f at level 0,
+  format "[bigOmega  'of'  f ]").
+Reserved Notation "[Omega_ x e 'of' f ]"
+  (at level 0, x, e at level 0, only parsing).
+(* Printing *)
 Reserved Notation "[Omega '_' x e 'of' f ]"
   (at level 0, x, e at level 0, format "[Omega '_' x  e  'of'  f ]").
+Reserved Notation "`Omega_ F g"
```
Comment (drouhling) [inline landau.v]: You should use a simple quote instead of a backquote.

File: landau.v [hunk 2]
```diff
@@ -289,6 +293,17 @@ Definition gen_tag : unit := tt.
 Definition a_tag : unit := tt.
 Lemma showo : (gen_tag = tt) * (the_tag = tt) * (a_tag = tt). Proof. by []. Qed.
 
+Reserved Notation "{o_ F f }" (at level 0, F at level 0, format "{o_ F  f }").
```
Comment (drouhling) [inline landau.v]: Shouldn't all reserved notations be put at the beginning?

File: landau.v [hunk 3]
```diff
@@ -1309,33 +1311,114 @@ apply/eqOP; exists k => //; near=> x.
...
+Hint Extern 0 (prop_near1 _) => solve[apply: bigThetaP] : core.
+Hint Extern 0 (prop_near2 _) => solve[apply: bigThetaP] : core.
+
+Notation "f '=Theta_' F h" := (f%function = mkbigTheta the_tag F f h).
+
+(* properties of big Theta *)
 
-Lemma bigThetaE (F : filter_on T) (f : T -> V) (g : T -> W) :
+Lemma bigThetaE {W} (F : filter_on T) (f : T -> V) (g : T -> W) :
   f \is `Theta_F(g) <-> f =O_F g /\ f \is `Omega_F(g).
```
Comment (drouhling) [inline landau.v]: Maybe use an equality here?

File: landau.v [hunk 4]
```diff
@@ -1309,33 +1311,114 @@ apply/eqOP; exists k => //; near=> x.
...
+Reserved Notation "[bigTheta 'of' f 'for' fT ]" (at level 0, f at level 0,
+  format "[bigTheta  'of'  f  'for'  fT ]").
+Reserved Notation "[bigTheta 'of' f ]" (at level 0, f at level 0,
+  format "[bigTheta  'of'  f ]").
+Reserved Notation "[Theta_ x e 'of' f ]"
+  (at level 0, x, e at level 0, only parsing).
+(*Printing*)
+Reserved Notation "[Theta '_' x e 'of' f ]"
+  (at level 0, x, e at level 0, format "[Theta '_' x  e  'of'  f ]").
+Reserved Notation "`Theta_ F g"
```
Comment (drouhling) [inline landau.v]: Same remark about simple quotes and reserved notations.

**Comment by drouhling** [comment]
I also have a question which is unrelated to the changes brought by this PR. Why is the `_ \is _` construction used, while it is not used for `littleo` and `bigO`?

File: landau.v (hunk 3 above)
Comment (affeldt-aist) [reply landau.v]: Indeed.

File: landau.v (hunk 1 above)
Comment (affeldt-aist) [reply landau.v]: Indeed.

File: landau.v (hunk 4 above)
Comment (affeldt-aist) [reply landau.v]: OK.

**Comment by affeldt-aist** [comment]
> Why is the _ \is _ construction used, while it is not used for littleo and bigO?
The usefulness of rewriting was more obvious for littleo and bigO than for big-Omega and big-Theta,
this is why we started with the simpler \is construct only. Since then, the boilerplate of littleo and bigO
has been adapted and \is remains only because it is slightly more general than =Omega_ and =Theta_
(it allows for functions with different codomains). These are not strong reasons to keep it.

File: landau.v (hunk 2 above)
Comment (affeldt-aist) [reply landau.v]: I was wondering. There are some many. At the beginning of the relevant section seems also a good place to me.

**Comment by drouhling** [comment]
OK thanks for the clarification.
